US08685974B2
To a solution of 4-[3-(5-bromo-2-thienyl)-1H-pyrazol-4-yl]pyridine (1 eq, 8.8 mmol) in 50 mL N,N-dimethylformamide were added 1-bromo-2-methylpropane (1.5 eq, 13.2 mmol) and cesium carbonate (1.1 eq, 9.7 mmol). The reaction mixture was stirred overnight at room temperature and poured in 500 mL of water. The resulting precipitate was filtered and dried. The solid was then recristallised in a mixture diisopropylether:dichloromethane to afford 1.81 g of 4-[1-isobutyl-3-(5-bromo-2-thienyl)-1H-pyrazol-4-yl]pyridine (53% yield).

reactant | 4-[3-(5-bromo-2-thienyl)-1H-pyrazol-4-yl]pyridine | 8.8 mmol, 1 eq | BrC1=CC=C(S1)C1=NNC=C1C1=CC=NC=C1 | C12H8BrN3S
reactant | 1-bromo-2-methylpropane | 13.2 mmol, 1.5 eq | BrCC(C)C | C4H9Br
reactant | cesium carbonate | 9.7 mmol, 1.1 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
product | 4-[1-isobutyl-3-(5-bromo-2-thienyl)-1H-pyrazol-4-yl]pyridine | 1.81 g, 53% yield | C(C(C)C)N1N=C(C(=C1)C1=CC=NC=C1)C=1SC(=CC1)Br | C16H16BrN3S
